US04766131
To a stirred solution of 3,4-dihydro-6-methoxy-1-methylisoquinoline hydrochloride (19.2 g, 0.09 m) and NaOH (2.0 g, 0.05 m) in absolute methanol (600 ml) was added NaBH4 (14.0 g, 0.37 m) and the mixture was stirred for 2 hours. Another 4 g (0.11 m) of NaBH4 was added, and after 4 hours the reaction was added slowly to 150 ml of 20% aq HCl. The mixture was brought to gentle reflux for 2 hours and then the reaction was filtered, and the filtrate was concentrated on a rotating evaporator. The residue was added to 400 ml water and basified with 20% NaOH to a pH of 11-12. The mixture was extracted with methylene chloride (3×200 ml), dried over MgSO4, then concentrated to an oil (21 g). The oil was dissolved in ether (1 liter), and the solution was acidified with HCl gas. The resultant solid was filtered off and dried, giving 15.6 g of 1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline hydrochloride, m.p. 218°-219°. (Yield 73%)

reactant | 3,4-dihydro-6-methoxy-1-methylisoquinoline hydrochloride | 19.2 g | Cl.COC=1C=C2CCN=C(C2=CC1)C
reactant | NaOH | 2.0 g | [OH-].[Na+]
reactant | NaBH4 | 14.0 g | [BH4-].[Na+]
reactant | NaBH4 | 4 g | [BH4-].[Na+]
reactant | HCl | 150 ml | Cl | ClH
solvent | methanol | 600 ml | CO | CH4O
product | 1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline hydrochloride | 15.6 g, Yield 73% | Cl.COC=1C=C2CCNC(C2=CC1)C | InChI=1S/C11H15NO.ClH/c1-8-11-4-3-10(13-2)7-9(11)5-6-12-8;/h3-4,7-8,12H,5-6H2,1-2H3;1H
